US09353096B2
(R)-2-amino-1-(4-fluoro-3-(trifluoromethyl)phenyl)ethanol (2.27 g, 10.2 mmol) was dissolved in 50 mL of dichloromethane. Water (50 mL) containing sodium bicarbonate (1.11 g, 13.2 mmol) was added. The mixture was stirred under ice bath and 2-chloroacetyl chloride (1.38 g, 12.2 mmol) in dichloromethane (10 mL) was added dropwise. The mixture was stirred for 20 min. The pH value was checked and concentrated sodium bicarbonate solution was added (15 mL) to adjust pH to basic. The ice bath was removed and the mixture was stirred for 15 min. TLC indicated consumption of the starting material. The mixture was extracted with dichloromethane and sodium bicarbonate solution. The organic layer was washed with brine and dried. Solvents were evaporated and the resulting material was purified through ISCO flash column chromatography (40 g silica gel, 20% to 90% ethyl acetate in hexanes gradient) to give 2-chloro-N—[(R)-2-(4-fluoro-3-trifluoromethylphenyl)-2-hydroxy-ethyl]-acetamide as an oily material, which gradually solidified (2.64 g). 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 3.18 (br. s., 1H) 3.40 (ddd, J=14.07, 8.21, 5.29 Hz, 1H) 3.72 (ddd, J=14.16, 6.99, 3.40 Hz, 1H) 4.09 (s, 2H) 4.95 (dd, J=7.93, 3.02 Hz, 1H) 7.03 (br. s., 1H) 7.16-7.26 (m, 1H) 7.54-7.62 (m, 1H) 7.66 (dd, J=6.61, 2.08 Hz, 1H).

reactant | (R)-2-amino-1-(4-fluoro-3-(trifluoromethyl)phenyl)ethanol | 10.2 mmol, 2.27 g | NC[C@H](O)C1=CC(=C(C=C1)F)C(F)(F)F | C9H9F4NO
reactant | Water | 50 mL | O | H2O
reactant | sodium bicarbonate | 13.2 mmol, 1.11 g | C([O-])(O)=O.[Na+]
reactant | 2-chloroacetyl chloride | 12.2 mmol, 1.38 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-chloro-N—[(R)-2-(4-fluoro-3-trifluoromethylphenyl)-2-hydroxy-ethyl]-acetamide | ClCC(=O)NC[C@H](O)C1=CC(=C(C=C1)F)C(F)(F)F | C11H10ClF4NO2
